US05021486
2,4,6-Tris{bis[(1-octyloxy-2,2,6,6-tetramethylpiperidin-4-yl)amino-carbonyl]methylene}hexahydro-1,3,5-triazine
The title compound is prepared from 4-amino-1-octyloxy-2,2,6,6-tetramethylpiperidine and 2,4,6-tris(dicarbethoxymethylene) hexahydro-1,3,5-triazine according to the general procedure of Example 1.

reactant | 4-amino-1-octyloxy-2,2,6,6-tetramethylpiperidine | NC1CC(N(C(C1)(C)C)OCCCCCCCC)(C)C | C17H36N2O
reactant | 2,4,6-tris(dicarbethoxymethylene) hexahydro-1,3,5-triazine | C(=O)(OCC)C(=C1NC(NC(N1)=C(C(=O)OCC)C(=O)OCC)=C(C(=O)OCC)C(=O)OCC)C(=O)OCC | C24H33N3O12
product | 2,4,6-Tris{bis[(1-octyloxy-2,2,6,6-tetramethylpiperidin-4-yl)amino-carbonyl]methylene}hexahydro-1,3,5-triazine | C(CCCCCCC)ON1C(CC(CC1(C)C)NC(=O)C(=C1NC(NC(N1)=C(C(=O)NC1CC(N(C(C1)(C)C)OCCCCCCCC)(C)C)C(=O)NC1CC(N(C(C1)(C)C)OCCCCCCCC)(C)C)=C(C(=O)NC1CC(N(C(C1)(C)C)OCCCCCCCC)(C)C)C(=O)NC1CC(N(C(C1)(C)C)OCCCCCCCC)(C)C)C(=O)NC1CC(N(C(C1)(C)C)OCCCCCCCC)(C)C)(C)C | C114H213N15O12
